US04447441
A mixture of 5-(3-aminopyrazol-1-yl]valeramide (18.2 mg.) and (2,2,2-trifluoroethyl)-S-methylisothiourea hydroiodide (51 mg.) was heated at 100° for 20 minutes. Preparative high pressure liquid chromatography on silica gel, using CHCl3 /MeOH/ammonia (s.g. 0.880) 8:2:0.5 v/v/v as eluant gave 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]valeramide, m.p. 129°-130° (40%).

reactant | 5-(3-aminopyrazol-1-yl]valeramide | 18.2 mg | NC1=NN(C=C1)CCCCC(=O)N | C8H14N4O
reactant | (2,2,2-trifluoroethyl)-S-methylisothiourea hydroiodide | 51 mg | I.FC(CNC(SC)=N)(F)F
reactant | CHCl3 MeOH ammonia | C(Cl)(Cl)Cl.CO.N
product | 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]valeramide | FC(CN=C(NC1=NN(C=C1)CCCCC(=O)N)N)(F)F | C11H17F3N6O
